* C:\Users\User\OneDrive\Documents\LTspice\CMOS NAND GATE.asc
* Generated by LTspice 26.0.1 for Windows.
M1 N001 N002 Vout N001 PMOS
M2 N001 N003 Vout N001 PMOS
M3 Vout N002 P001 0 NMOS
M4 P001 N003 0 0 NMOS
V1 N002 0 PULSE(0 5 0 5n 5n 40m 80m)
V2 N003 0 PULSE(0 5 0 5n 5n 20m 40m)
V3 N001 0 5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\User\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 80m
.backanno
.end
